US07538931B2
Hvw=2,2′-(1,2-Phenylene)bis(1-pentyl-1H-benzimidazole)
To a flask were added 1.5 g of 2,2′-(1,2-phenylene)bis(1H-benzimidazole) and 30 ml of N,N-dimethylformamide, and the mixture was cooled to 5 C. To this mixture was added 0.48 g of 60% sodium hydride in mineral oil in small portions, and after stirring at 5-10 C for 30 minutes, 2.4 g of 1-1-iodopentane were added. The reaction mixture was warmed to 22 C for and stirred for 16 hours, then quenched with 50 ml water. The product was extracted with 40 ml ethyl acetate and following removal of the solvent, the product was purified by silica gel chromatography using 25% ethyl acetate, 75% hexane and 0.1% triethylamine resulting in 2.1 g of a yellow solid.

reactant | 2,2′-(1,2-phenylene)bis(1H-benzimidazole) | 1.5 g | C1(=C(C=CC=C1)C1=NC2=C(N1)C=CC=C2)C2=NC1=C(N2)C=CC=C1 | C20H14N4
reactant | sodium hydride | 0.48 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2,2′-(1,2-Phenylene)bis(1-pentyl-1H-benzimidazole) | C1(=C(C=CC=C1)C1=NC2=C(N1CCCCC)C=CC=C2)C2=NC1=C(N2CCCCC)C=CC=C1 | C30H34N4
